Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
left face, arm, and leg weakness/numbness
 
Major Surgical or Invasive Procedure:
tPA (at ___ on ___ at 20:56)
 
History of Present Illness:
HPI:
___ is a ___ left-handed male with a PMHx of BPH and 
HTN not on medications (per OSH records, patient denies the 
latter) who was in his USOH until ___ at 7:30pm at which time 
he developed circumferential whole-limb right arm numbness and 
mild paresthesias while sitting and watching TV. This was 
followed by right leg numbness and mild paresthesias ___ minutes 
later. He sensory changes did not involve his face. Around the 
same time as his leg sensory symptoms, he also experienced right 
arm/leg weakness and dysarthria. Specifically, he noticed that 
he could not pick up his phone and could not stand on his right 
leg; however, he still had some movement of those limbs. 
Initially, he was unable to lift his right side antigravity, but 
all of his sensorimotor improved after ___ minutes while in 
the ambulance (however, he never returned to baseline). 
Subsequently, while still in the ambulance, he again had a 
worsening of his RUE/RLE weakness, facial droop, and dysarthria 
(however, not as severe as on initial presentation). On arrival 
to ___, he had an NIHSS of 4 (R arm drift, R leg drift, 
dysarthria, R facial droop). At the time of telestroke, his 
NIHSS was 2 (dysarthria, R facial droop). NCHCT at ___ did not 
have any acute intracranial abnormalities. His tPA bolus was 
begun at 8:56pm (9mg bolus, 81mg afterward). His symptoms 
resolved completely "about halfway" into tPA treatment. The 
patient was transferred for post-tPA care because there were no 
ICU beds at the OSH. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus, 
and hearing difficulty. Denies difficulties producing or 
comprehending speech.  No bowel or bladder incontinence or 
retention. 

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation, 
or abdominal pain.  No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Past Medical History:
BPH
?HTN -- patient denies

=======================
Past Surgical History: 
Lipoma Resection

=======================
Medications:
Finasteride: 5 mg daily
MVI

======================
ALLERGIES:
Penicillins
 
Social History:
___
Family History:
Maternal GF--stroke in late ___.  
 
Physical Exam:
ADMISSION EXAM:
___ Stroke Scale - Total [0]  
Scored 0 for all categories below--
 1a. Level of Consciousness - 
 1b. LOC Questions -  
 1c. LOC Commands -  
 2. Best Gaze -  
 3. Visual Fields -  
 4. Facial Palsy -  
 5a. Motor arm, left -  
 5b. Motor arm, right -  
 6a. Motor leg, left -  
 6b. Motor leg, right -  
 7. Limb Ataxia -  
 8. Sensory -  
 9. Language -  
 10. Dysarthria -  
 11. Extinction and Neglect - 

Physical Exam:
Vitals: T: 98.6 P: 77 R: 15  BP: 131/68 SaO2: 96RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: no WOB
Cardiac: WWP
Abdomen: ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
___ bilaterally. Fundoscopic exam revealed no papilledema, 
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting with arm roll. No adventitious movements, such as 
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: EDB, FFl

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

=================
DISCHARGE EXAM:
Gen: NAD, looks well
HEENT: NC/AT, MMM
CV: brisk capillary refill
Pulm: breathing comfortably on RA
Ext: warm, well-perfused, no edema

Neuro
- MS: AAOx3. Fluent speech w/o paraphasias or dysarthria.
- CN: PERRL 3->2, EOMI without nystagmus. Face activates 
symmetrically, no weakness or numbness. Tongue midline, palate 
symmetric.
- Motor: ___ throughout. 
- Sensory: intact to light touch in bilateral ___
- ___: FNF without dysmetria bilaterally
- Reflexes: 2 throughout
- Gait: normal gait, narrow-based

 
Pertinent Results:
==============================
Outside Hospital Labs/Imaging:
==============================
WBC 7.4, Hgb 14.3, Plt 211

INR 0.78, PTT 28.5, ESR 6

Na 136 K 4.1 Cl 102 HCO3 27 BUN 14 Cr 0.83 Gluc 125  Ca 9.4

LFTs: ___ Trop<0.01, albumin 4

Radiologic Data:
Non-Contrast CT of Head at ___ ___: no acute 
intracranial abnormalities

===============
Admission Labs:
===============
___ 01:25AM BLOOD WBC-8.5 RBC-4.88 Hgb-13.8 Hct-41.0 MCV-84 
MCH-28.3 MCHC-33.7 RDW-12.3 RDWSD-37.6 Plt ___

___ 07:00AM BLOOD Neuts-68.3 ___ Monos-6.9 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-5.37 AbsLymp-1.78 AbsMono-0.54 
AbsEos-0.08 AbsBaso-0.03

___ 01:25AM BLOOD ___ PTT-28.4 ___

___ 01:25AM BLOOD Glucose-103* UreaN-18 Creat-0.8 Na-135 
K-4.4 Cl-98 HCO3-23 AnGap-18

___ 01:25AM BLOOD ALT-37 AST-24 AlkPhos-79 TotBili-0.2

___ 01:25AM BLOOD cTropnT-<0.01

___ 01:25AM BLOOD Albumin-4.3 Calcium-9.4 Phos-3.9 Mg-2.2

===============
Stroke Work-Up:
===============
___ 07:00AM BLOOD %HbA1c-5.4 eAG-108

___ 07:00AM BLOOD Triglyc-92 HDL-67 CHOL/HD-2.7 LDLcalc-96

___ 07:00AM BLOOD TSH-3.6

___ 01:25AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

========
IMAGING:
========
CT Head (___):
FINDINGS:  
Dental amalgam streak artifact limits study. 
  
CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of hemorrhage, edema, mass 
effect, or 
acute infarction.  The ventricles and sulci are normal in size 
and 
configuration. 
  
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear. The visualized portion 
of the orbits are unremarkable. 
  
Somewhat encapsulated appearance of a fat lobule in the left 
suboccipital 
region may represent a lipoma (3:3, 5:223). 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation. The dural venous sinuses are patent. 
  
CTA NECK: 
There is a three vessel aortic arch with no appreciable 
atherosclerotic 
disease. The branch vessels, and origin of the common carotid 
and vertebral arteries are widely patent. The left vertebral 
artery is dominant. The carotid and vertebral arteries and their 
major branches appear normal with no evidence of stenosis or 
occlusion. There is no evidence of internal carotid stenosis by 
NASCET criteria. 
  
OTHER: 
The visualized portion of the lungs demonstrates approximately 4 
mm left upper lobe pulmonary nodule (see 05:16). The thyroid 
gland is mildly enlarged. There is a 6 mm hypodense nodule on 
the right lobe (5:91), a 9 mm hypodense nodule in the left lower 
pole (5:82), a 9 mm partially calcified nodule in the left upper 
pole (5:73), and a 10 mm hypodense nodule in the left upper pole 
(5:68), in addition to multiple smaller thyroid nodules. There 
is no lymphadenopathy by CT size criteria. 
  
IMPRESSION: 
1. Dental amalgam streak artifact limits study. 
2. No evidence of acute intracranial hemorrhage. 
3. No evidence of aneurysm greater than 3 mm, dissection or 
significant 
luminal narrowing. 
4. Bilateral thyroid nodules measuring up to 10 mm. Thyroid lobe 
nodule.  The ___ College of Radiology guidelines suggest 
that in the absence of risk factors for thyroid cancer, no 
further evaluation is recommended. 
5. 2 x 7 cm suboccipital probable lipoma. 
6. 4 mm left upper lobe pulmonary nodule. The ___ 
guidelines for pulmonary nodule guidelines suggest for pulmonary 
nodules less than or equal to 4mm, no follow-up needed in 
low-risk patients, and 12 month follow-up in high risk patients. 


MRI Brain (___): 
FINDINGS:  
There are 3 tiny, non-contiguous foci of acute infarct, 2 are 
seen in the left caudate body, 1 within left putamen. There is 
no evidence of hemorrhage, edema, masses, mass effect, midline 
shift. The ventricles and sulci are normal in caliber and 
configuration. There is 6.6 cm x 2.1 cm posterior neck 
subcutaneous lipoma, with few thin septations, no FLAIR 
hyperintensity, stable since CT. Bilateral mastoid air cells, 
middle ears, visualized paranasal sinuses are patent. There is 
chronic fracture of the inferior right orbital wall. 
Intracranial vascular flow voids are preserved. 
  
IMPRESSION: 
1. There are 3 punctate acute left basal ganglia infarcts.  No 
hemorrhage. 
2. There is posterior neck lipoma. 

Echocardiogram (___): 
The left atrium is elongated. No thrombus/mass is seen in the 
body of the left atrium. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). No 
masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

 
Brief Hospital Course:
Mr. ___ was admitted to the neurology stroke service for 
post-tPA monitoring and stroke work-up. 

His symptoms resolved prior to his admission and did not recur. 
His brain MRI showed 3 acute lacunar infarcts -- two in the left 
caudate and one in the putamen. 

With regards to his work-up, his HbA1c was normal (5.4%). His 
total cholesterol was 181 with an LDL of 96 -- for this we 
started him on atorvastatin 20 mg daily, as his post-stroke LDL 
goal is now <70. He was started on low-dose aspirin (81 mg 
daily) on ___. He was monitored on telemetry and did not have 
atrial fibrillation or other arrhythmia. He was fitted for a 
___ of Heart cardiac monitor and will go home with a plan for 4 
weeks of outpatient monitoring to assess for paroxysmal atrial 
fibrillation.  

He remained hemodynamically stable throughout his 
hospitalization.

 
Medications on Admission:
1. Finasteride 5 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet by mouth 
daily Disp #*30 Tablet Refills:*11 

2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet by mouth Bedtime Disp #*30 
Tablet Refills:*11 

3.  Finasteride 5 mg PO DAILY  

4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute infarcts (L caudate, L caudate, L putamen)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
You were hospitalized due to symptoms of left face, arm, and 
face resulting from an ACUTE ISCHEMIC STROKE, a condition where 
a blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:  
- High cholesterol (LDL of 96)
- Smoking (pipes, cigars)
- Could not rule out atrial fibrillation. You will go home with 
a long-term heart monitor to further assess your heart rhythm. 

We are changing your medications as follows:  
- START aspirin: 81 mg daily
- START atorvastatin: 20 mg daily

Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Followup Instructions:
___